Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Neck pain
 
Major Surgical or Invasive Procedure:
___ Anterior/posterior cervical fusion with instrumentation 
C3-7 (by ___

 
History of Present Illness:
Patient is a ___ yo F with h/o HTN, HL, asthma admitted for 
elective cervical decompression/fusion for spinal stenosis on 
___. Post-operative course complicated by 1) episode of AMS 
described by OMR note as alert and oriented though paranoid now 
resolved 2) UTI by UA, no UCx in OMR s/p 3 days Cipro (___), 
3) mucous plug which required re-intubation overnight in PACU, 
extubated ___ with transfer to floor and 4) new A fib with RVR 
which began on ___ with HR in 160s.  Cardiology was consulted 
and patient initially responded to IV metoprolol 5 mg with 
conversion to sinus.  Patient was then changed to diltiazem as 
it was felt that Beta blocker could be exacerbating underlying 
asthma, and patient diuresed with 20 mg IV furosemide.  
Overnight, patient again in RVR, requiring uptitrating of both 
PO and IV diltiazem.  Patient to undergo TTE this AM.  The 
patient is now transferred to the medical service for further 
management of rapid atrial fibrillation.  Cardiology will 
continue to follow patient.
.
Patient reports no prior cardiac history without known CHF, CAD,
or history of palpitations, unexplained syncope or
lightheadedness.  She did have an episode of CP in the setting 
of
planned knee surgery for which it appears she had a nuclear
stress test which by her report was normal.  Performed at ___ in ___.
.
This AM went into rapid ventricular rate up to the 150s. She was 
given diltiazem 30mg PO, then extra 30mg PO, then 10mg IVx2. 
There was an improvement in her rate to ___. She went to 
get a TTE. Upon return, rate back up to 130s. She was given 10IV 
and 60PO diltiazem. She is ordered for 40PO and 40IV K for low 
potassium.

 
Past Medical History:
1. Asthma  
2. Hypertension  
3. GERD  
4. Urinary incontinence- currently on cipro for bladder 
infection  
5. Multiple back and hip surgeries  
6. Hyperlipidemia  

 
Social History:
___
Family History:
N/C
 
Physical Exam:
ADMISSION EXAM (by orthopedic service)
A&O X 3; NAD
RRR
CTA B
Abd soft NT/ND
BUE- good strength at deltoid, biceps, triceps, wrist 
flexion/extension, finger flexion/extension and intrinics; 
sensation intact C5-T1 dermatomes; - ___, hyperreflexic 
symmetrically at biceps, triceps and brachioradialis
BLE- good strength at hip flexion/extension, knee 
flexion/extension, ankle dorsiflexion and plantar flexion, 
___ sensation intact L1-S1 dermatomes; - clonus, reflexes 
symmetric at quads and Achilles
+ gait imbalance
.
DISCHARGE EXAM
VS: 98.5 (98.7) 156/78 (106-156/66-94) 84 (73-84) 20 95%RA 
(93-96%RA)
I/O: NR/1225 BMx1
General: Alert, oriented, no acute distress.  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, flat neck veins, no LAD  
Lungs: CTAB
CV: Regular rate and rhythm, normal S1 + S2, soft systolic 
murmur at RUSB 
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: 1+ edema to the knees 
Neuro: AOx3, attention intact, neuro exam nonfocal (strength ___ 
all 4 ext, CN2-12 intact, sensation intact)
 
Pertinent Results:
ADMISSION LABS:
___ 05:23AM BLOOD WBC-9.3 RBC-3.25* Hgb-10.9* Hct-30.5* 
MCV-94 MCH-33.5* MCHC-35.7* RDW-12.6 Plt ___
___ 05:23AM BLOOD Glucose-133* UreaN-14 Creat-0.8 Na-136 
K-3.5 Cl-100 HCO3-27 AnGap-13
___ 05:23AM BLOOD Calcium-8.6 Phos-3.4 Mg-1.5*
.
RELEVANT LABS:
___ 01:12PM BLOOD D-Dimer-___*
___ 09:00AM BLOOD TSH-3.4
___ 05:22AM BLOOD CK-MB-1 cTropnT-<0.01
___ 09:00AM BLOOD ALT-21 AST-27 LD(LDH)-177 AlkPhos-66 
TotBili-0.4
.
DISCHARGE LABS:
___ 05:04AM BLOOD WBC-8.7 RBC-2.89* Hgb-9.3* Hct-28.4* 
MCV-98 MCH-32.3* MCHC-32.8 RDW-12.8 Plt ___
___ 05:04AM BLOOD ___ PTT-30.3 ___
___ 05:04AM BLOOD Glucose-94 UreaN-15 Creat-0.8 Na-137 
K-3.6 Cl-102 HCO3-24 AnGap-15
___ 05:04AM BLOOD Calcium-9.7 Phos-4.2 Mg-1.7
.
MICROBIOLOGY
___ Blood cultures x2: no growth
___ Urine culture: MIXED BACTERIAL FLORA ( >= 3 COLONY 
TYPES), CONSISTENT WITH SKIN AND/OR GENITAL CONTAMINATION.
.
PATHOLOGY:
___: Disc C4-C7:
- Fibrocartilage with degenerative changes.
- Scant fragments of unremarkable bone.
.
IMAGING:
___ C-spine, 2 views: Two portable views of the C-spine 
without a radiologist present. Plate with transfixing screws is 
seen at C4 through C7. No apparent hardware complications. No 
fractures are noted. No alignment abnormalities are noted. 
Degenerative changes are seen on initial images which are 
obscured on final images by surgical hardware. For full details, 
please refer to operative note.
.
___ Chest x-ray, portable: Moderate-to-severe bibasilar 
atelectasis.
.
___ Chest x-ray PA/lat: Severe cardiomegaly is stable. 
Bibasilar opacities are markedly improved consistent with an 
improving atelectasis and small pleural effusions. Vascular 
congestion has resolved. There are no new lung abnormalities. 
Spinal hardware is in place.
.
___ TTE: The left atrium is mildly dilated. The right atrium 
is moderately dilated. There is mild symmetric left ventricular 
hypertrophy with normal cavity size. There is mild regional left 
ventricular systolic dysfunction with mild hypokinesis of the 
distal anterior wall and septum. The remaining segments contract 
normally (LVEF = 50%). Right ventricular chamber size and free 
wall motion are normal. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis or aortic regurgitation. The mitral valve appears 
structurally normal with trivial mitral regurgitation. There is 
mild pulmonary artery systolic hypertension. There is an 
anterior space which most likely represents a prominent fat pad.
IMPRESSION: Mild regional left ventricular systolic dysfunction, 
c/w CAD. Mild pulmonary hypertension.
 
Brief Hospital Course:
___ hx asthma, HTN, HLP who presented for elective cervical 
fusion ___ c/b mucous plugging, UTI, acute episode of AMS 
(paranoia) and finally afib with RVR.  Transferred to medicine 
for management of afib and electrolyte repletion. Hospital 
course complicated by paranoid delirium.
.
.
ACTIVE ISSUES:
# ___ hospital course:  Ms. ___ was admitted to the 
___ Spine Surgery Service on ___ and taken to the Operating 
Room for C4-7 fusion through an anterior approach. Please refer 
to the dictated operative note for further details. The surgery 
was without complication and the patient was transferred to the 
PACU in a stable condition. TEDs/pnemoboots were used for 
postoperative DVT prophylaxis. Intravenous antibiotics were 
given per standard protocol. Initial postop pain was controlled 
with a PCA. On HD#2 she returned to the operating room for a 
scheduled C3-7 decompression with PSIF as part of a staged 
2-part procedure. Please refer to the dictated operative note 
for further details. The second surgery was also without 
complication and the patient was transferred to the PACU in a 
stable condition.  While in the PACU she developed hypoxia and 
required reintubation.  This was thought to be due to a mucous 
plug.  She was subsequently extubated the following day but 
developed a delerium with components of paranoia.  She then 
developed atrial fibrillation with rapid ventricular response, 
congestive heart failure exacerbation and electrolyte imbalance 
requiring transfer to the medicine service.
.
# Atrial fibrillation: No history of afib or cardiac disease.  
Ruled out with negative enzymes.  EKG without ishemic changes 
and enzymes flat.  TSH wnl.  ECHO showed no structural cause for 
atrial fibrillation but did show an EF of 50% with mild distal 
anterior wall hypokinesis suggestive of cardiac disease.  
Initially she was rate controlled with diltiazem, but this was 
changed to metoprolol when the echo report came back suggestive 
of CAD.  CHADS 1, therefore given aspirin 325 mg for anticoag. 
She was in sinus rhythm since ___, monitored on tele 
throughout.
.
# Congestive heart failure/edema: EF 50% with no significant 
valvular disease.  It was felt by cardiology that her failure 
was exacerbated by atrial fibrillation (was edematous to the 
hips with significant crackles and cardiac wheeze on pulmonary 
exam).  She was diuresed with IV lasix.  Other etiologies for 
edema were ruled out, including normal albumin and normal renal 
function.  She was discharged with beta blockers, lisinopril 
(instead of triamterene/HCTZ) and lasix.
.
# ?CAD: her echo was suggestive of cardiac disease.  As she was 
ruled out by troponins and her EKG was without ischemic changes, 
no further intervention was undertaken during this 
hospitalization.  She was started on CAD medications as above.  
She will need to follow-up with cardiology and schedule an 
outpatient stress test to further evaluate these echo findings.
.
# Delirium: She was noted on multiple occasions to have delerium 
with predominantly paranoid/delusional features.  Psychiatry was 
consulted who felt that the paranoia was secondary to delirium, 
and recommended discontinuing narcotics, and starting 
risperidone.  She also was found to have a dirty UA with urine 
culture showing just mixed bacteria, consistent with 
contamination; however, she was treated with 3 days of 
cefpodxime, out of concern that a possible UTI was contributing 
to her delirium. Her delirium was well-controlled after starting 
risperidone 1 mg PO qHS. Mental status was clear for the three 
days prior to discharge. Patient may discontinue risperidone 
over the next few days.
.
.
CHRONIC ISSUES:
# HTN: Well-controlled. Changed regimen to metoprolol succinate 
and lisinopril, as described above.
.
# Asthma:  Given history of RVR, switched albuterol to 
ipratropium while in house. Afib resolved. Patient may resume 
home Advair on discharge.
.
# GERD: Continued home omeprazole
.
.
TRANSITIONAL ISSUES:
# Delirium has cleared for the past three days. Patient may 
discontinue risperidone soon after arrival to rehabilitation, as 
long as she shows no signs of recurring confusion or paranoia.
# Should have outpatient stress test to evaluate for CAD.
# Code: full
 
Medications on Admission:
1. Cymbalta- 60 mg daily  
2. Meloxicam- 15 mg every day  
3. Lipitor- 10 mg every day  
4. Aspirin- 81 mg every day  
5. Omeprazole- 20 mg every day  
6. Bystolic- 20 mg every day  
7. Triamterene-Hydrochlorothiazide 37.5 mg-25 mg  
8. Ciprofloxacin- 500 mg BID  
9. Acidophilus Oral Capsule  
10. Advair 500/50 BID

 
Discharge Medications:
1. duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
2. atorvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. fluticasone-salmeterol 500-50 mcg/dose Disk with Device Sig: 
One (1) inhalation Inhalation BID (2 times a day).  
4. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
5. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
6. aspirin 325 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO at bedtime.  
7. lisinopril 5 mg Tablet Sig: One (1) Tablet PO once a day.  
8. acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO every 
eight (8) hours as needed for fever/pain.  
9. metoprolol succinate 100 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO once a day.  
10. risperidone 1 mg Tablet Sig: One (1) Tablet PO at bedtime.  
11. furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
Cervical stenosis and spondylosis
.
Secondary diagnoses
Atrial fibrillation with rapid ventricular rate
Congestive heart failure, acute diastolic
Paranoid delirium

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to participate in your care here at ___ 
___! You were admitted with spinal 
stenosis.  You have undergone the following operation: 
ANTERIOR/POSTERIOR cervical decompression with fusion.  After 
this, you were noted to have an abnormal heart rhythm called 
atrial fibrillation, which was treated with a medication called 
a beta blocker to slow down your heart rate.  

You also had an ultrasound of the heart which showed some mild 
abnormality in the very bottom portion of your heart.  Due to 
this, you should have a stress test as an outpatient after 
discharge from rehab.  You also need to follow-up with a 
cardiologist.

You also were delirious with very paranoid thoughts.  This was 
presumed to be secondary to a urinary tract infection, which was 
treated with an antibiotic (cefpodoxime), and to having a 
prolonged hospital stay.  At the time of discharge, your 
symptoms were stable on risperidone.  If you have no further 
confusion or paranoia at rehab, you may discontinue risperidone.

Please note the following medication changes:

START
Lisinopril 5 mg by mouth once per day
Toprol XL 100 mg by mouth once per day
Aspirin 325 mg by mouth once per day
Furosemide 20 mg by mouth once per day
Risperidone 1 mg by mouth at bedtime

Please STOP
Meloxicam- 15 mg every day  
Aspirin 81 mg every day  (we increased the dose)
Bystolic 20 mg every day  
Triamterene-Hydrochlorothiazide 37.5 mg-25 mg  
Ciprofloxacin 500 mg BID  

Otherwise please take all medications as prescribed.

 
Immediately after the operation:
-Activity: You should not lift anything greater than 10 lbs for 
2 weeks. You will be more comfortable if you do not sit or stand 
more than ~45 minutes without getting up and walking around.
 
-Rehabilitation/ Physical Therapy: 
___ times a day you should go for a walk for ___ minutes as 
part of your recovery. You can walk as much as you can tolerate. 

Limit any kind of lifting.

-Diet: Eat a normal healthy diet. You may have some constipation 
after surgery. You have been given medication to help with this 
issue.
 
-Brace: You have been given a brace. This brace is to be worn 
for comfort when you are walking. You may take it off when 
sitting in a chair or while lying in bed.
 
-Wound Care: Remove the dressing in 2 days. If the incision is 
draining cover it with a new sterile dressing. If it is dry then 
you can leave the incision open to the air. Once the incision is 
completely dry (usually ___ days after the operation) you may 
take a shower. Do not soak the incision in a bath or pool. If 
the incision starts draining at anytime after surgery, do not 
get the incision wet. Cover it with a sterile dressing. Call the 
office. 
 
-You should resume taking your normal home medications. No 
NSAIDs.
 
-You have also been given Additional Medications to control your 
pain. Please allow 72 hours for refill of narcotic 
prescriptions, so please plan ahead. You can either have them 
mailed to your home or pick them up at the clinic located on 
___. We are not allowed to call in or fax narcotic 
prescriptions (oxycontin, oxycodone, percocet) to your pharmacy. 
In addition, we are only allowed to write for pain medications 
for 90 days from the date of surgery.
 
Please call the office if you have a fever>101.5 degrees 
Fahrenheit and/or drainage from your wound.
 

It is important that you follow up with your doctors after 
___. Please make appointments with Dr. ___ your 
primary care doctor, as instructed below.

Wishing you all the best!
 
Followup Instructions:
___